US07557103B2
B. 3-Bromo-2-methyl-thieno[2,3-b]pyridine
500 mg of 3-Bromo-thieno[2,3-b]pyridine (3.70 mmol) is dissolved in 3 ml of dry THF and cooled to −78° C. 2.71 ml of lithium diisopropylamine mono (tetrahydrofuran) 1.5 M solution in cyclohexane (4.07) is added to the mixture at −78° C. and stirred at −78° C. for 20 min. 0.25 ml of methyl iodide (43.7 mmol) is added to the mixture and stirred at −78° C.→room temperature for 1 h. The reaction mixture is quenched with sat. NH4Cl and extracted with CH2Cl2. The separated CH2Cl2 is dried over Na2SO4 and evaporated. The crude product is applied onto a silica-gel chromatography column (Hexane:AcOEt=3:1) to give 382 mg of the title compound. Yield 45%. mass spectrum (m/e): 230 (M+1); 1H-NMR (CDCl3): 8.56 (dd, 1H, J=4.7 Hz, 1.5 Hz), 7.97 (dd, 1H, J=8.5 Hz, 1.5 Hz), 7.37 (dd, 1H, J=8.5 Hz, 4.7 Hz), 2.62 (s, 3H) ppm.

reactant | 3-Bromo-thieno[2,3-b]pyridine | 3.70 mmol, 500 mg | BrC1=CSC2=NC=CC=C21 | C7H4BrNS
reactant | lithium diisopropylamine mono (tetrahydrofuran) | 1.5 M, 2.71 ml | O1CCCC1.C(C)(C)NC(C)C.[Li]
reactant | methyl iodide | 43.7 mmol, 0.25 ml | CI | CH3I
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 3-Bromo-2-methyl-thieno[2,3-b]pyridine | 382 mg, Yield 45% | BrC1=C(SC2=NC=CC=C21)C | C8H6BrNS
